US07173129B2
Ex-29A: To a solution of 4-acetylbenzenesulfonyl chloride (1.1 g, 5.0 mmol) in 25 ml of THF, methylamine (0.44 ml of 40% solution in H2O, 5 mmol) was added dropwise, and the mixture was stirred for 30 min. The reaction mixture was poured into water, and the precipitate was filtered. Recrystallization from EtOAc/hexanes gave 0.67 g (62.6%) of 4-acetyl-N-methyl-benzenesulfonamide as a white solid. 1H-NMR (300 MHz, CDCl3) δ 8.09 (d, J=8 Hz, 2H), 7.96 (d, J=8 Hz, 2H), 4.48 (br, 1H), 2.70 (d, J=4 Hz, 1H), 2.66 (s, 3H).

reactant | 4-acetylbenzenesulfonyl chloride | 5.0 mmol, 1.1 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
reactant | methylamine | 5 mmol, 0.44 ml | CN | CH5N
reactant | water | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-acetyl-N-methyl-benzenesulfonamide | 0.67 g, 62.6% | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC | C9H11NO3S
